US05532240
A mixture of 590 mg of 6-acetyl-3-(2-bromoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine, 580 mg of 4-(6-fluoro-1-methyl- 1H-indazol-3-yl) piperidine, 780 mg of potassium carbonate and 415 mg of potassium iodide in 10 ml of dimethylformamide and 10 ml of toluene was stirred at 90° C. for 22 hours and concentrated in vacuo. To the residue were added ethyl acetate and water, and separated. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on a silica gel to give 540 mg of 6-acetyl-3-(2-(4-(6-fluoro-1-methyl-1H-indazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine as an oil, m.p. 213°-216° C. as oxalate thereof.

reactant | 6-acetyl-3-(2-bromoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 590 mg | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCBr | C12H16BrNOS
reactant | 4-(6-fluoro-1-methyl- 1H-indazol-3-yl) piperidine | 580 mg | FC1=CC=C2C(=NN(C2=C1)C)C1CCNCC1 | C13H16FN3
reactant | potassium carbonate | 780 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 415 mg | [I-].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 6-acetyl-3-(2-(4-(6-fluoro-1-methyl-1H-indazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 540 mg | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCN2CCC(CC2)C2=NN(C1=CC(=CC=C21)F)C | C25H31FN4OS
